US04473085
Preparation And Pyrolysis Of Ethyl 2-(2-Butyl)-3-hydroxy-3-methylnonanoate
A sample of the prepared hydroxy-ester pyrolyzes at 230° C. to a 1:1 mixture of 2-octanone and ethyl 3-methylvalerate.

reactant | 2-octanone | CC(CCCCCC)=O | C8H16O
reactant | ethyl 3-methylvalerate | CC(CC(=O)OCC)CC | C8H16O2
product | Ethyl 2-(2-Butyl)-3-hydroxy-3-methylnonanoate | CC(CC)C(C(=O)OCC)C(CCCCCC)(C)O | C16H32O3
